US04127581
To a solution of 17.5 g. of diethylstyrylamine in 200 ml. of ether was added 8.5 g. of pyridine. The mixture was cooled to 5° C. and a solution of 20.1 g. of bromoacetyl bromide in 200 ml. of ether was added over a period of about 4 hours. The mixture was filtered and the residue on the filter was washed with 300 ml. of ether. The combined ether filtrate and washings was washed with 1 N hydrochloric acid, 0.1 N sodium hydroxide, saturated aqueous sodium chloride, and dried over magnesium sulfate and activated carbon. The mixture was filtered and the ether was evaporated to give a quantitative yield of α-bromoacetyl-β-diethylaminostyrene. The product was shown by NMR spectrum to be a mixture of the cis and trans isomers.

reactant | diethylstyrylamine | C(C)N(C=CC1=CC=CC=C1)CC | C12H17N
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | bromoacetyl bromide | BrCC(=O)Br | C2H2Br2O
solvent | ether | CCOCC | C4H10O
product | α-bromoacetyl-β-diethylaminostyrene | quantitative yield | BrCC(=O)C(=CC1=CC=CC=C1)N(CC)CC | C14H18BrNO
